US05401756
a) Preparation of 2-hydroxymethyl-5-methoxy-N-(3-pyridylmethyl)benzamide
A mixture of 919 mg of 6-methoxyisobenzofuran-1 (3H)-one and 1.82 g of 3-aminomethylpyridine was heated at 150° C. without solvent for 3 hours under stirring. After finishing the reaction, the mixture was chromatographed on a column of silica gel, eluting with ethyl acetate and then with tetrahydrofuran to give 1.40 g of the titled compound.

reactant | 6-methoxyisobenzofuran-1 (3H)-one | 919 mg | COC1=CC=C2COC(C2=C1)=O | C9H8O3
reactant | 3-aminomethylpyridine | 1.82 g | NCC=1C=NC=CC1 | C6H8N2
product | 2-hydroxymethyl-5-methoxy-N-(3-pyridylmethyl)benzamide | 1.40 g | OCC1=C(C(=O)NCC=2C=NC=CC2)C=C(C=C1)OC | C15H16N2O3
